US07541372B2
rac-(2S,6R)-2,6-Dimethyl-4-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine
A suspension of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.62 mmol) in 2,6-dimethylmorpholine (2.00 mL, 16.0 mmol) was heated for 30 min at 200° C. (microwave) followed by stirring under gently reflux for 18 h at 160° C. After addition of DMSO (2 mL) and 2,6-dimethylmorpholine (0.50 mL, 4.00 mmol) the solution was stirred for another 24 h at 160° C. After cooling to ambient temperature the reaction mixture was extracted with water (20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with brine (20 mL) and aqueous sodium carbonate (saturated, 20 mL). Drying over sodium sulfate, concentration and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20) afforded the title compound (61 mg, 24%) as a white solid. MS: m/e=417.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.62 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | 2,6-dimethylmorpholine | 16.0 mmol, 2.00 mL | CC1CNCC(O1)C | C6H13NO
reactant | 2,6-dimethylmorpholine | 4.00 mmol, 0.50 mL | CC1CNCC(O1)C | C6H13NO
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | rac-(2S,6R)-2,6-Dimethyl-4-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine | 61 mg, 24% | CC1CN(CC(O1)C)C1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C24H24N4O3
